US05166198
a) Diethyl but-3-enylphosphonate
Diethyl phosphite (4.14 g, 0.03 mol) was added to a suspension of 60% sodium hydride (1.2 g, 0.03 mol) in dry tetrahydrofuran (60 ml) at ambient temperature. The mixture was stirred for 5 minutes until a pale yellow solution was obtained. 4-Bromobut-1-ene (4.5 g, 0.033 mol) was added dropwise and the reaction mixture heated at reflux for 3 hours. After cooling to ambient temperature and filtering, the filtrate was concentrated under reduced pressure to give an oil. The oil was chromatographed on silica gel (eluting with ethyl acetate-hexane, 50:50) to yield the title compound as a colorless oil (3.85 g, 67%). IR: υmax (film) 3080, 3000, 2940, 2920, 2880, 1645, 1450, 1390, 1260, 1165, 1060, 1030, 970, 820, 790 cm-1. 1H NMR: δH (CDCl3) 1.35 (6H, t, J=7Hz, (OCH2CH3)2), 1.50-2.70 (4H, m, CH2CH2P), 4.10 (4H, m, (OCH2CH3)2) 4.85-5.28 (2H, m, CH2 =CH), 5.5-6.28 (1H, m, CH2 =CH--CH2).

reactant | Diethyl phosphite | 0.03 mol, 4.14 g | P(OCC)(OCC)[O-]
reactant | sodium hydride | 0.03 mol, 1.2 g | [H-].[Na+]
reactant | 4-Bromobut-1-ene | 0.033 mol, 4.5 g | BrCCC=C | C4H7Br
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Diethyl but-3-enylphosphonate | 3.85 g, 67% | C(CC=C)P(OCC)(OCC)=O | C8H17O3P
